US06982278B2
{4-[2-(5-methyl-2-phenyloxazol-4-yl)-ethoxy]-2-propylphenoxy}acetic acid
A solution of 2-methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-2-propylphenoxy}propionic acid ethyl ester (0.21 g, 0.5 mmol) in MeOH (10 mL) was treated with 2.5N aqueous NaOH (1.2 mL). The solution was heated at 55° C. for 1.5 h, cooled to ambient temperature, and concentrated in vacuo. The residue was diluted with EtOAc (30 mL) and water (30 mL) and acidified to pH=1 with 5N aqueous HCl. The organic layer was washed with brine (40 mL), dried (Na2SO4), and concentrated to a white solid (0.17 g, 86%). 1H. NMR (400 MHz, CDCl3) δ 7.97 (dd, J=7.4, 2.4 Hz, 2H), 7.44-7.41 (m, 3H), 6.72 (d, J=2.9 Hz, 1H), 6.68-6.59 (m, 2H), 4.59 (s, 2H), 4.14 (t, J=6.6 Hz, 2H), 2.97 (t, J=6.6 Hz, 2H), 2.59 (t, J=7.6 Hz, 2H), 2.38 (s, 3H), 1.61 (q, J=7.7 Hz, 2H), 0.94 (t, J=7.6 Hz, 3H); MS (ES) m/e 396 (M+1).

reactant | 2-methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-2-propylphenoxy}propionic acid ethyl ester | 0.5 mmol, 0.21 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CCC)C)=O | C27H33NO5
reactant | NaOH | 2.5N, 1.2 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | {4-[2-(5-methyl-2-phenyloxazol-4-yl)-ethoxy]-2-propylphenoxy}acetic acid | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC(=C(OCC(=O)O)C=C1)CCC | C23H25NO5
